US04515948
A suspension of 12 g. of 4'-(dimethylamino)-3',5'-dimethyl-2-(methylsulfonyl)-acetophenone and 6.6 g. of sodium borohydride in 300 ml. of alcohol was stirred at room temperature for 20 hours, resulting in a solution. After the addition of 300 ml. of water, the alcohol was removed under vacuum. The crystals formed were removed by filtration with suction, washed with water and dried, whereby there was obtained 4-(dimethylamino)-3,5-dimethyl-α-[(methylsulfonyl)-methyl]-benzyl alcohol having a melting point of 133°-134° C.

reactant | 4'-(dimethylamino)-3',5'-dimethyl-2-(methylsulfonyl)-acetophenone | CN(C1=C(C=C(C=C1C)C(CS(=O)(=O)C)=O)C)C | C13H19NO3S
reactant | sodium borohydride | [BH4-].[Na+]
product | 4-(dimethylamino)-3,5-dimethyl-α-[(methylsulfonyl)-methyl]-benzyl alcohol | CN(C1=C(C=C(C(CS(=O)(=O)C)O)C=C1C)C)C | C13H21NO3S
